US07851637B2
4(S)-(Tetrahydro-pyran-2-yloxy)-pent-2-enoic acid methyl ester (10 g, 46.7 mmol) was reduced with DIBAL-H according to the procedure described in J. Chem. Soc., Perkin. Trans. 1 1994, 2791 to yield 4(S)-(Tetrahydro-pyran-2-yloxy)-pent-2-en-1-ol in 88% yield.

reactant | 4(S)-(Tetrahydro-pyran-2-yloxy)-pent-2-enoic acid methyl ester | 46.7 mmol, 10 g | COC(C=C[C@H](C)OC1OCCCC1)=O | C11H18O4
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
product | 4(S)-(Tetrahydro-pyran-2-yloxy)-pent-2-en-1-ol | 88% yield | O1C(CCCC1)O[C@H](C=CCO)C | C10H18O3
